US06534535B1
Part 1. To a solution of methyl 4-[(tert-butoxy)carbonylamino]-3-nitrobenzoate (0.44 g, 1.5 mmol) in methanol (2 mL), ethyl acetate (3 mL) and triethylamine (0.21 mL, 1.5 mmol) was added 10% Pd on carbon (159 mg, 0.15 mmol). The reaction mixture was hydrogenated under 1 atm H2 for 3.5 hours, filtered, and concentrated in vacuo to yield methyl 3-amino-4-[(tert-butoxycarbonyl)amino]benzoate (0.40 g, 99%) as a white solid. ES-MS (M+H—C4H8)+=211.1.

reactant | methyl 4-[(tert-butoxy)carbonylamino]-3-nitrobenzoate | 1.5 mmol, 0.44 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C13H16N2O6
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 0.15 mmol, 159 mg | [Pd] | Pd
product | methyl 3-amino-4-[(tert-butoxycarbonyl)amino]benzoate | 0.40 g, 99% | NC=1C=C(C(=O)OC)C=CC1NC(=O)OC(C)(C)C | C13H18N2O4
